US07468443B2
In 22.8 mL of toluene was dissolved 7.60 g of tert-butyl 3-[2-(1-benzothiophen-5-yl) ethoxy]propionate, and 94 mg of p-toluenesulfonic acid monohydrate was added thereto, after which the resulting mixture was refluxed for 6 hours. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the organic layer was separated. The organic layer was dried over anhydrous magnesium sulfate and distilled under reduced pressure to remove the solvent. The residue was crystallized from a toluene-cyclohexane mixture (1:4, 23 mL) to obtain 5.30 g of 3-[2-(1-benzothiophen-5-yl)ethoxy]propionic acid as light-red crystals.

reactant | tert-butyl 3-[2-(1-benzothiophen-5-yl) ethoxy]propionate | 7.60 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)OC(C)(C)C | C17H22O3S
reactant | p-toluenesulfonic acid monohydrate | 94 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | water | O | H2O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 22.8 mL | C1(=CC=CC=C1)C | C7H8
product | 3-[2-(1-benzothiophen-5-yl)ethoxy]propionic acid | 5.30 g | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
